US07465726B2
4-[4-(Benzothiazol-6-ylamino)-5-bromo-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylicacid tert-butyl ester
To a mixture (55:45) of benzothiazol-6-yl-[5-bromo-2-(1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-amine and 5-bromo-4-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine (101 mg, 0.272 mmol) in THF (5 mL) was added triethylamine (83 mg, 0.816 mmol), DMAP (5 mg) and (Boc)2O (47 mg, 0.215 mmol) and the reaction was stirred overnight at RT under N2. The solvent was evaporated and the residue was purified by preparative TLC using 4% methanol in DCM as eluent to afford a mixture of 4-(5-bromo-4-chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester and the title compound. 4-[4-(Benzothiazol-6-ylamino)-5-bromo-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylicacid tert-butyl ester: 1H NMR (400 MHz, CDCl3): δ=8.98 (s, 1H), 8.19 (s, 1H), 8.11 (d, J=8.6 Hz, 1H), 7.75 (d, J=2.0 Hz, 1H), 7.37 (dd, J=8.7, 2.1 Hz, 1H), 6.81 (s, 1H), 6.15 (bs, 1H), 5.51 (s, 1H), 4.90-4.15 (m, 2H), 3.54 (t, J=5.3 Hz, 2H), 2.95 (s, 1H), 2.88 (s, 1H), 2.17-2.25 (m, 2H), 1.47 (s, 9H); MS (ES+): m/z 527.84 (100) [MH+]; HPLC: tR=3.30 min (ZQ2000, polar—5 min).

reactant | benzothiazol-6-yl-[5-bromo-2-(1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-amine | S1C=NC2=C1C=C(C=C2)NC2=C1C(=NC=C2Br)NC(=C1)C=1CCNCC1 | C19H16BrN5S
reactant | 5-bromo-4-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine | 0.272 mmol, 101 mg | BrC=1C(=C2C(=NC1)NC(=C2)C=2CCNCC2)Cl | C12H11BrClN3
reactant | triethylamine | 0.816 mmol, 83 mg | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | 0.215 mmol, 47 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(5-bromo-4-chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=2C(=NC=C(C2Cl)Br)N1 | C17H19BrClN3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-[4-(Benzothiazol-6-ylamino)-5-bromo-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylicacid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=2C(=NC=C(C2NC2=CC3=C(N=CS3)C=C2)Br)N1 | C24H24BrN5O2S
